US05807863
A mixture of methyl (4-chloro-2,6-dimethyl-5-pyrimidinyl)-acetate (4.6 g, 21 mmol), 1-(2-methylphenyl)-1H-pyrazol-4-on (4.1 g, 23 mmol) and potassium carbonate (6.4 g, 46 mmol) in dimethylformamide (50 ml) is heated at +120° C. for 2 hours. Addition of water, extraction with ether and drying gives the intermediate methyl 2-[2,4-dimethyl-6-(1-(2-methylphenyl)-1H-pyrazol4-yloxy)-pyrimidin-5-yl]-acetate as an oil.

reactant | methyl (4-chloro-2,6-dimethyl-5-pyrimidinyl)-acetate | 21 mmol, 4.6 g | ClC1=NC(=NC(=C1CC(=O)OC)C)C | C9H11ClN2O2
reactant | 1-(2-methylphenyl)-1H-pyrazol-4-on | 23 mmol, 4.1 g | CC1=C(C=CC=C1)N1N=CC(C1)=O | C10H10N2O
reactant | potassium carbonate | 46 mmol, 6.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | methyl 2-[2,4-dimethyl-6-(1-(2-methylphenyl)-1H-pyrazol4-yloxy)-pyrimidin-5-yl]-acetate | CC1=NC(=C(C(=N1)C)CC(=O)OC)OC=1C=NN(C1)C1=C(C=CC=C1)C | C19H20N4O3
